US05990105
4.5 g (0.0165 mol) of N-(3-bromo-5-nitrophenyl)-N-methylacetamide were dissolved in 75 ml of ethanol, treated while cooling with a solution of 15.0 g (0.0665 mol) of SnCl2.2H2O in 30 ml of HCl (37%) and stirred at room temperature for 18 hrs. Then, the solvent was removed, the residue was adjusted to pH 8 with sat. NaHCO3 solution, extracted with ethyl acetate and sat. sodium chloride solution and the organic phase was dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:2, 1:1 and finally 2:1. There were obtained 2.35 g (59%) of N-(3-amino-5-bromophenyl)-N-methylacetamide as light brown crystals. MS (EI): me/e=244,242 (C9H11BrN2O+).

reactant | N-(3-bromo-5-nitrophenyl)-N-methylacetamide | 0.0165 mol, 4.5 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])N(C(C)=O)C | C9H9BrN2O3
reactant | SnCl2.2H2O | 0.0665 mol, 15.0 g | O.O.Cl[Sn]Cl
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | HCl | 30 ml | Cl | ClH
product | N-(3-amino-5-bromophenyl)-N-methylacetamide | 2.35 g, 59% | NC=1C=C(C=C(C1)Br)N(C(C)=O)C | C9H11BrN2O
